US06897224B2
5-[4-(7-Chlorobenzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester
Analogously to Example 37, 70 mg (0.21 mmol) of 4-(7-chlorobenzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal is reacted with 50 mg (0.25 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester in 0.5 ml of concentrated acetic acid and 20 ml of toluene. After working-up and purification on silica gel with hexane-ethyl acetate (0-100%), 60 mg (55% of theory) of the product is obtained.

reactant | 4-(7-chlorobenzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.21 mmol, 70 mg | ClC1=CC=C(C2=C1OCO2)C(CC(C=O)(C(F)(F)F)O)(C)C | C14H14ClF3O4
reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 0.25 mmol, 50 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(7-Chlorobenzo[1,3]dioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=CC=C(C=2OCOC21)Cl)(C(F)(F)F)O | C25H22ClF3N2O5
